US20010027196A1
A solution of 200 mg (0.53 mmol) [2-(2-amino-5-cyano-6-furan-2-yl-pyrimidin-4-ylamino)-ethyl]-carbamic acid benzyl ester and 0.055 ml (0.53 mmol) cyclohexanone in 10 ml dioxane and 5 ml ethanol was stirred with a spatula end of 10% palladium on charcoal under 1 atm of hydrogen for 4 h at room temperature. After filtration to remove the catalyst, the reaction mixture was concentrated in vacuo and the residue triturated in ether to afford 80 mg (46%) 2-amino-4-(2-cyclohexylamino-ethylamino)-6-furan-2-yl-pyrimidine-5-carbonitrile as a white crystalline solid. ES-MS m/e (%): 327 (M+H+, 100), 228 ([M+H—C6H11NH2]+, 40).

reactant | [2-(2-amino-5-cyano-6-furan-2-yl-pyrimidin-4-ylamino)-ethyl]-carbamic acid benzyl ester | 0.53 mmol, 200 mg | C(C1=CC=CC=C1)OC(NCCNC1=NC(=NC(=C1C#N)C=1OC=CC1)N)=O | C19H18N6O3
reactant | cyclohexanone | 0.53 mmol, 0.055 ml | C1(CCCCC1)=O | C6H10O
reactant | hydrogen | [H][H] | H2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | [Pd] | Pd
product | 2-amino-4-(2-cyclohexylamino-ethylamino)-6-furan-2-yl-pyrimidine-5-carbonitrile | 80 mg, 46% | NC1=NC(=C(C(=N1)NCCNC1CCCCC1)C#N)C=1OC=CC1 | C17H22N6O
